US06982348B2
N-((1RS,2SR)-2-(3-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-3-phenylpropanamide
To a solution of (1RS,2SR)-2-amino-1-(3-fluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (450 mg, 1.44 mmol) in ethyl acetate (20 ml) were added 3-phenylpropionyl chloride (320 ml, 2.15 mmol) and saturated aqueous sodium hydrogen carbonate (20 ml) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (528 mg, 83%).

reactant | (1RS,2SR)-2-amino-1-(3-fluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 1.44 mmol, 450 mg | NC(C(O)C1=CC(=CC=C1)F)CC1=CC=C(C=C1)C(F)(F)F | C16H15F4NO
reactant | 3-phenylpropionyl chloride | 2.15 mmol, 320 ml | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-(3-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-3-phenylpropanamide | 528 mg, 83% | FC=1C=C(C=CC1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(CCC1=CC=CC=C1)=O)O | C25H23F4NO2
